US07446118B2
Lithium aluminum hydride (54 mg, 1.4 mmol) was added, under nitrogen atmosphere, to a solution of [2-(1H-indol-5-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester CCLXXV (100 mg, 0.30 mmol) in tetrahydrofuran (3 mL) and the resulting mixture was heated at reflux for 95 minutes. The reaction mixture was cooled to room temperature and then at 0° C., freshly crushed sodium sulfate decahydrate (3 g) was then added portionwise and the resulting mixture was stirred for 1.5 hours. The reaction mixture was filtered and the filter cake was washed with ethyl acetate. The filtrate was evaporated under reduced pressure to a light yellow oil. This crude residue was purified by flash chromatography (DCM/(DCM/MeOH/NH4OH) 100/0 to 25/75) to give [2-(1H-indol-5-yl)-2-phenyl-ethyl]-methyl-amine CCLXXVI. MS=251 [M+H]+.

reactant | Lithium aluminum hydride | 1.4 mmol, 54 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [2-(1H-indol-5-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(C1=CC=CC=C1)C=1C=C2C=CNC2=CC1)=O | C21H24N2O2
reactant | sodium sulfate decahydrate | 3 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | [2-(1H-indol-5-yl)-2-phenyl-ethyl]-methyl-amine | N1C=CC2=CC(=CC=C12)C(CNC)C1=CC=CC=C1 | C17H18N2
